US07320994B2
5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazolyl]4(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde oxime
Add hydroxylamine hydrochloride (7 mg) to a 0° C. solution 5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde (50 mg) in 1,2-dichloroethane (1 mL). Stir 60 hours while allowing reaction to slowly warm to RT. Quench reaction by slowly adding 1 N NaOH (1 mL). Extract with CH2Cl2 (2×2 mL) and dry. Purification via silica gel chromatography using 3:1 to 1:1 hexanes:EtOAc gradient gives the desired product (18 mg, 35%). MS (IS) 606.1 (M+1); Rf=0.52 (1:1 hexanes:EtOAc).

reactant | hydroxylamine hydrochloride | 7 mg | Cl.NO
reactant | 5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde | 50 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C(=NN2)C=O)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H17ClF6N6O
reactant | NaOH | 1 N, 1 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | 5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazolyl]4(2-chloro-benzyl)-4H-[1,2,4]triazole-3-carbaldehyde oxime | 18 mg, 35% | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C(=NN2)C=NO)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H18ClF6N7O
